US07947689B2
2-(4-Methyl-thiophen-2-yl)-ethylamine
In close analogy to the procedure described above, 4-Methyl-2-(2-nitro-vinyl)-thiophene is reacted with lithium aluminium hydride to provide the title compound.

reactant | 4-Methyl-2-(2-nitro-vinyl)-thiophene | CC=1C=C(SC1)C=C[N+](=O)[O-] | C7H7NO2S
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
product | 2-(4-Methyl-thiophen-2-yl)-ethylamine | Yield: 85% | CC=1C=C(SC1)CCN | C7H11NS
